US06313151B1
C. N3-(4-methoxybenzoyl)-3,4-pyridinediamine
A solution of N4-(tert-butyloxycarbonyl)-N3-(4-methoxybenzoyl)-3,4-pyridinediamine (600 mg, 1.75 mmol) in methylene chloride (8 mL) was treated with trifluoroacetic acid (1.35 mL, 17.5 mmol). After 6.5 h, the mixture was concentrated and the residue dissolved in water and treated with 5 N aqueous sodium hydroxide. The resulting precipitate was collected by filtration yielding 325 mg (76%) of the title compound.

reactant | N4-(tert-butyloxycarbonyl)-N3-(4-methoxybenzoyl)-3,4-pyridinediamine | 1.75 mmol, 600 mg | C(C)(C)(C)OC(=O)NC1=C(C=NC=C1)NC(C1=CC=C(C=C1)OC)=O | C18H21N3O4
reactant | trifluoroacetic acid | 17.5 mmol, 1.35 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 8 mL | C(Cl)Cl | CH2Cl2
product | N3-(4-methoxybenzoyl)-3,4-pyridinediamine | 325 mg, 76% | COC1=CC=C(C(=O)NC=2C=NC=CC2N)C=C1 | C13H13N3O2
